US06514964B1
Step D: (tert-butoxy)-N-[6-(3-oxopropyl)(2-pyridyl)]carboxamide
To a stirring solution of N-[6-(3,4-dihydroxybutyl)(2-pyridyl)](tert-butoxy)carboxamide in tetrahydrofuran/water (1 eq/1 eq, 0.1M) was added sodium metaperiodate (1.3 eq) at 0° C. and stirred for 1 hr. The reaction was warmed to room temperature and diluted with ethyl acetate. The reaction was extracted with saturated sodium bicarbonate, dried with sodium sulfate, filtered and concentrated in vacuo to yield the product. EI-MS m/z 251(M+H)+

reactant | N-[6-(3,4-dihydroxybutyl)(2-pyridyl)](tert-butoxy)carboxamide | OC(CCC1=CC=CC(=N1)NC(=O)OC(C)(C)C)CO | C14H22N2O4
reactant | tetrahydrofuran water | 0.1M, 1 eq | O1CCCC1.O
reactant | sodium metaperiodate | 1.3 eq | I(=O)(=O)(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (tert-butoxy)-N-[6-(3-oxopropyl)(2-pyridyl)]carboxamide | C(C)(C)(C)OC(=O)NC1=NC(=CC=C1)CCC=O | C13H18N2O3
